US06982348B2
1) ethyl 3-(3-fluorophenyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (8.91 g, 42.8 mmol) in ethyl acetate (100 ml) were added N-bromosuccinimide (8.35 g, 46.9 mmol) and 2,2′-azobis(isobutyronitrile) (335 mg, 2.04 mmol), and the mixture was heated under reflux for 5 hrs. The reaction solution was concentrated and the crystals were filtered with hexane. The filtrate was concentrated to prepare 3-(1,1,2,2-tetrafluoroethoxy)-a-bromotoluene. To a solution of ethyl 3-(3-fluorophenyl)-3-oxopropanoate (8.57 g, 40.8 mmol) in 1,2-dimethoxyethane (80 ml) was added sodium hydride (60% in oil, 1.63 g, 40.8 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (10 ml), and the mixture was stirred overnight at room temperature. The reaction solution was poured into water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate), and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-6:1) and recrystallized from ethyl acetate-hexane to give the objective substance (8.86 g, 52%).

reactant | 3-(1,1,2,2-tetrafluoroethoxy)toluene | 42.8 mmol, 8.91 g | FC(C(F)F)(OC=1C=C(C=CC1)C)F | C9H8F4O
reactant | N-bromosuccinimide | 46.9 mmol, 8.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 2.04 mmol, 335 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ethyl 3-(3-fluorophenyl)-3-oxopropanoate | 40.8 mmol, 8.57 g | FC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 40.8 mmol, 1.63 g | [H-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | FC(C(F)F)(OC=1C=C(C=CC1)CBr)F | C9H7BrF4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | water | 100 ml | O | H2O
product | ethyl 3-(3-fluorophenyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | FC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C20H17F5O4
